CIRCUIT C:\Users\emanu\Documents\A_UNIVERSITA\A_MAGISTRALE\Microwind4Cav\TSPC_FA_FullDesign\TSPC_FA_FullDesign.MSK
*
* IC Technology: CMOS 0.12µm - 6 Metal
*
VDD 1 0 DC 1.20
*
* List of nodes
* "sum" corresponds to n°2
* "N5" corresponds to n°5
* "carry" corresponds to n°6
* "N7" corresponds to n°7
* "notCarry" corresponds to n°8
* "N9" corresponds to n°9
* "notSum" corresponds to n°16
* "d" corresponds to n°20
* "b" corresponds to n°29
* "phi" corresponds to n°30
* "c" corresponds to n°31
* "a" corresponds to n°32
*
* MOS devices
MN1 0 32 19 0 N1  W= 1.92U L= 0.12U
MN2 19 29 18 0 N1  W= 1.92U L= 0.12U
MN3 18 31 17 0 N1  W= 1.92U L= 0.12U
MN4 17 30 16 0 N1  W= 1.92U L= 0.12U
MN5 0 16 15 0 N1  W= 0.96U L= 0.12U
MN6 15 30 2 0 N1  W= 0.96U L= 0.12U
MN7 2 30 14 0 N1  W= 0.96U L= 0.12U
MN8 14 16 0 0 N1  W= 0.96U L= 0.12U
MN9 20 32 16 0 N1  W= 1.20U L= 0.12U
MN10 16 29 20 0 N1  W= 1.20U L= 0.12U
MN11 20 31 16 0 N1  W= 1.20U L= 0.12U
MN12 21 8 20 0 N1  W= 1.20U L= 0.12U
MN13 0 30 21 0 N1  W= 1.20U L= 0.12U
MN14 22 8 0 0 N1  W= 1.20U L= 0.12U
MN15 6 30 22 0 N1  W= 1.20U L= 0.12U
MN16 23 30 6 0 N1  W= 1.20U L= 0.12U
MN17 0 8 23 0 N1  W= 1.20U L= 0.12U
MN18 24 29 0 0 N1  W= 1.56U L= 0.12U
MN19 8 32 24 0 N1  W= 1.56U L= 0.12U
MN20 25 32 8 0 N1  W= 0.48U L= 0.12U
MN21 26 29 8 0 N1  W= 0.48U L= 0.12U
MN22 0 31 25 0 N1  W= 0.48U L= 0.12U
MN23 0 31 26 0 N1  W= 0.48U L= 0.12U
MN24 27 31 0 0 N1  W= 0.48U L= 0.12U
MN25 28 31 0 0 N1  W= 0.48U L= 0.12U
MN26 8 32 27 0 N1  W= 0.48U L= 0.12U
MN27 8 29 28 0 N1  W= 0.48U L= 0.12U
MP1 1 16 2 0 P1  W= 3.60U L= 0.12U
MP2 1 30 5 0 P1  W= 1.20U L= 0.12U
MP3 1 8 6 0 P1  W= 3.60U L= 0.12U
MP4 7 29 1 0 P1  W= 1.44U L= 0.12U
MP5 8 32 7 0 P1  W= 1.44U L= 0.12U
MP6 9 32 8 0 P1  W= 1.44U L= 0.12U
MP7 1 29 9 0 P1  W= 1.44U L= 0.12U
MP8 10 29 1 0 P1  W= 1.44U L= 0.12U
MP9 8 31 10 0 P1  W= 1.44U L= 0.12U
MP10 11 31 8 0 P1  W= 1.44U L= 0.12U
MP11 1 29 11 0 P1  W= 1.44U L= 0.12U
MP12 12 32 1 0 P1  W= 1.44U L= 0.12U
MP13 8 31 12 0 P1  W= 1.44U L= 0.12U
MP14 13 31 8 0 P1  W= 1.44U L= 0.12U
MP15 1 32 13 0 P1  W= 1.44U L= 0.12U
*
C2 2 0  1.153fF
C4 1 0  4.524fF
C5 5 0  0.310fF
C6 6 0  1.278fF
C7 7 0  0.240fF
C8 8 0  3.348fF
C9 9 0  0.240fF
C10 10 0  0.240fF
C11 11 0  0.240fF
C12 12 0  0.240fF
C13 13 0  0.240fF
C14 14 0  0.174fF
C15 15 0  0.174fF
C16 16 0  2.257fF
C17 17 0  0.424fF
C18 18 0  0.331fF
C19 19 0  0.331fF
C20 20 0  0.781fF
C21 21 0  0.214fF
C22 22 0  0.214fF
C23 23 0  0.214fF
C24 24 0  0.272fF
C25 25 0  0.096fF
C26 26 0  0.096fF
C27 27 0  0.096fF
C28 28 0  0.096fF
C29 29 0  1.734fF
C30 30 0  1.440fF
C31 31 0  1.603fF
C32 32 0  1.672fF
*
* n-MOS Model 3 :
* low leakage
.MODEL N1 NMOS LEVEL=3 VTO=0.40 UO=600.000 TOX= 2.0E-9
+LD =0.000U THETA=0.500 GAMMA=0.400
+PHI=0.200 KAPPA=0.060 VMAX=120.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
* low leakage
.MODEL P1 PMOS LEVEL=3 VTO=-0.45 UO=200.000 TOX= 2.0E-9
+LD =0.000U THETA=0.300 GAMMA=0.400
+PHI=0.200 KAPPA=0.060 VMAX=110.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
.TEMP 27.0
.TRAN 0.30PS 5.00N
.PROBE
.END
